US06514964B1
Step A: Methyl 2-{3-(7-(2-pyridylamino)heptanoyl)-1H,2H,4H,5H-benzo[d]azepin-1-yl}acetate
To a stirring solution of methyl 2-(1H,2H,3H,4H,5H-benzo[d]azepin-1-yl)acetate in dichloromethane (0.2 M) was added 7-(2-pyridylamino)heptanoic acid (1.2 eq), triethylamine (1.5 eq), and EDAC (2 eq). After 4 hrs, the reaction was washed with water, 10% sodium carbonate, dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (silica; EtOAc) afforded a colorless oil.

reactant | methyl 2-(1H,2H,3H,4H,5H-benzo[d]azepin-1-yl)acetate | C1(CNCCC2=C1C=CC=C2)CC(=O)OC | C13H17NO2
reactant | 7-(2-pyridylamino)heptanoic acid | 1.2 eq | N1=C(C=CC=C1)NCCCCCCC(=O)O | C12H18N2O2
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | EDAC | 2 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 0.2 M | ClCCl | CH2Cl2
product | Methyl 2-{3-(7-(2-pyridylamino)heptanoyl)-1H,2H,4H,5H-benzo[d]azepin-1-yl}acetate | N1=C(C=CC=C1)NCCCCCCC(=O)N1CC(C2=C(CC1)C=CC=C2)CC(=O)OC | C25H33N3O3
